US06031107
1.5 g of 80% strength sodium hydride in mineral oil are added in portions at 20° C. with stirring to a solution of 12.5 g (60 mmol) of methyl 2-[2-(tetrahydropyran-2-yloxy)-phenyl]-acrylate and 30 g of methyl formate in 150 ml of dry dimethylformamide in a three-necked flask having an attached condenser. After approximately one hour, the exothermic reaction commences with foaming. The temperature is kept at 40° C. for 3 hours. The mixture is cooled to 0-5° C. and treated successively with 4.8 g (0.05 mol) of methanesulphonic acid and in portions with 13.8 g (0.1 mol) of potassium carbonate. The temperature of the cooling fluid in the condenser, as well as the temperature of the reaction mixture, is then adjusted to 0° C. Using a syringe, 6.8 g (0.06 mol) of bromofluoromethane are added and the mixture is stirred overnight at 0-5° C. The reaction mixture is stirred for a further 24 hours without cooling. The temperature of the cooling fluid is kept at approximately 0° C. The mixture is concentrated, the residue is taken up using ethyl acetate, the solution is washed with water, and the organic phase is dried over sodium sulphate and concentrated again. The residue is chromatographed on silica gel using hexane/acetone (7:3). 11.6 g (75% of theory) of methyl 2-[2-(tetrahydropyran-2-yloxy)-phenyl]-3-fluoromethoxy-acrylate are obtained.

reactant | sodium hydride | [H-].[Na+]
reactant | methyl 2-[2-(tetrahydropyran-2-yloxy)-phenyl]-acrylate | 60 mmol, 12.5 g | O1C(CCCC1)OC1=C(C=CC=C1)C(C(=O)OC)=C | C15H18O4
reactant | methyl formate | 30 g | C(=O)OC | C2H4O2
reactant | methanesulphonic acid | 0.05 mol, 4.8 g | CS(=O)(=O)O | CH4O3S
reactant | potassium carbonate | 0.1 mol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromofluoromethane | 0.06 mol, 6.8 g | BrCF | CH2BrF
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | methyl 2-[2-(tetrahydropyran-2-yloxy)-phenyl]-3-fluoromethoxy-acrylate | 11.6 g, 75% | O1C(CCCC1)OC1=C(C=CC=C1)C(C(=O)OC)=COCF | C16H19FO5
